US09108938B2
2-Chloro-5-methyl-N-(2-morpholin-4-yl-2-p-tolyl-ethyl)-benzamide
From 2-chloro-5-methylbenzoic acid and 2-(4-methyl-phenyl)-2-morpholin-4-yl-ethylamine.

reactant | 2-chloro-5-methylbenzoic acid | ClC1=C(C(=O)O)C=C(C=C1)C | C8H7ClO2
reactant | 2-(4-methyl-phenyl)-2-morpholin-4-yl-ethylamine | CC1=CC=C(C=C1)C(CN)N1CCOCC1 | C13H20N2O
product | 2-Chloro-5-methyl-N-(2-morpholin-4-yl-2-p-tolyl-ethyl)-benzamide | ClC1=C(C(=O)NCC(C2=CC=C(C=C2)C)N2CCOCC2)C=C(C=C1)C | C21H25ClN2O2
